US08623889B2
N-(7-(5-fluoro-2-methylphenyl)-5-(methylsulfonyl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide
A mixture of N-(5-chloro-7-(5-fluoro-2-methylphenyl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide (40 mg, 0.1 mmol), sodium methyl sulfide (12 mg, 0.17 mmol) and tetrahydrofuran (1 mL) was heated at 75° C. for 30 minutes. The mixture was diluted with dichloromethane (50 mL) and washed with water (20 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was redissolved in methanol (1 mL) and treated with Oxone® (270 mg, 0.45 mmol). The reaction was mixed at room temperature for 2 hours and then diluted with dichloromethane (50 mL) and washed with water (20 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by reverse phase HPLC (5-85% acetonitrile in water with 0.1% formic acid over 14 min) to afford the title compound as an off-white solid (10 mg, 50%). 1H NMR (400 MHz, DMSO) δ 11.30 (s, 1H), 9.50 (s, 1H), 9.36 (s, 1H), 8.52 (s, 1H), 7.54-7.37 (m, 2H), 7.26 (m, 1H), 3.55 (s, 3H), 2.43 (s, 3H), 2.11 (m, 1H), 0.97-0.79 (m, 4H). LCMS (Method E): RT=4.997 min, M+H+=400.1.

reactant | N-(5-chloro-7-(5-fluoro-2-methylphenyl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide | 0.1 mmol, 40 mg | ClC1=C2C=C(N=CC2=CC(=N1)C1=C(C=CC(=C1)F)C)NC(=O)C1CC1 | C19H15ClFN3O
reactant | sodium methyl sulfide | 0.17 mmol, 12 mg | CSC.[Na]
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | methanol | 1 mL | CO | CH4O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-(7-(5-fluoro-2-methylphenyl)-5-(methylsulfonyl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide | 10 mg, 50% | FC=1C=CC(=C(C1)C1=NC(=C2C=C(N=CC2=C1)NC(=O)C1CC1)S(=O)(=O)C)C | C20H18FN3O3S
